US09382236B2
(2) tert-Butyl 4-(1-amino-2-naphthylamino)phenylcarbamate
tert-Butyl 4-(1-nitro-2-naphthylamino)phenylcarbamate (18.67 g, 49.21 mmol) was dissolved in tetrahydrofuran (180 mL) and methanol (180 mL), the mixture was added with platinum oxide (360 mg), and the mixture was stirred at room temperature for 2 hours under a hydrogen atmosphere. The catalyst was separated by filtration, then the solvent was evaporated under reduced pressure, and the residue was washed with methanol to give the title compound (15.67 g, yield 91%) as off-white crystals.

reactant | tert-Butyl 4-(1-nitro-2-naphthylamino)phenylcarbamate | 49.21 mmol, 18.67 g | [N+](=O)([O-])C1=C(C=CC2=CC=CC=C12)NC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C21H21N3O4
solvent | tetrahydrofuran | 180 mL | O1CCCC1 | C4H8O
solvent | methanol | 180 mL | CO | CH4O
catalyst | platinum oxide | 360 mg | [Pt]=O
product | tert-Butyl 4-(1-amino-2-naphthylamino)phenylcarbamate | 15.67 g, yield 91% | NC1=C(C=CC2=CC=CC=C12)NC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C21H23N3O2
